US09102654B2
Alternate Synthetic Route to: Methyl-3-((3,3,3-trifluoropropyl)thio)propionate
A 100 mL stainless steel Parr reactor was charged with methyl 3-mercaptopropionate (4.15 g, 34.5 mmol), toluene (30.3 g), and 2,2′-azobis(4-methoxy-2,4-dimethyl) valeronitrile (V-70, 0.531 g, 1.72 mmol) and the reactor was cooled with a dry ice/acetone bath, purged with nitrogen, and pressure checked. 3,3,3-Trifluoropropene (3.40 g, 35.4 mmol) was added via transfer cylinder and the reaction was allowed to warm to 20° C. After 23 hours the reaction was heated to 50° C. for 1 hour to decompose any remaining V-70 initiator. The reaction was allowed to cool to room temperature. The solution was concentrated to provide the title compound (7.01 g, 66%, 70.3 wt % linear isomer by GC internal standard assay, 4.93 g active, 66%, 24:1 linear:branched by GC, 18:1 linear:branched by fluorine NMR)

reactant | methyl 3-mercaptopropionate | 34.5 mmol, 4.15 g | SCCC(=O)OC | C4H8O2S
reactant | 3,3,3-Trifluoropropene | 35.4 mmol, 3.40 g | FC(C=C)(F)F | C3H3F3
solvent | toluene | 30.3 g | C1(=CC=CC=C1)C | C7H8
product | Methyl-3-((3,3,3-trifluoropropyl)thio)propionate | 7.01 g | COC(CCSCCC(F)(F)F)=O | C7H11F3O2S
